US06620828B2
To a solution of 3.15 g (26.7 mmol, 1.0 eq.) of 3-aminobenzonitrile in 10 mL of CH2Cl2 was added a solution of 6.4 g (29.4 mmol, 1.1 eq.) of di-tertbutyl dicarbonate in 10 mL of CH2Cl2, followed by 320 mg (2.7 mmol, 0.1 eq.) of DMAP and 8 mL (80.1 mmol, 3.0 eq.) of pyridine. CO2 evolved and the reaction was followed by TLC until completion. The solvent was pumped off, the residue was taken up in EtOAc, and washed with 1N HCl and brine. The organic layer was dried over Na2SO4 and the solvent was removed. The crude product was purified on SiO2 (2% Et2O—CH2Cl2 eluant) to yield 5.4 g of 3-(t-butoxycarbamoyl)benzonitrile (yield 93%). Rf=0.9 (10% Et2O—CH2Cl2). 1H NMR (CDCl3): δ 1.5 (s, 9H), 6.6 (s br, 1H), 7.35 (m, 2H), 7.55 (m, 1H), 7.82 (m, 1H).

reactant | 3-aminobenzonitrile | 26.7 mmol, 3.15 g, 1.0 eq. | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | di-tertbutyl dicarbonate | 29.4 mmol, 6.4 g, 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 80.1 mmol, 8 mL, 3.0 eq. | N1=CC=CC=C1 | C5H5N
reactant | CO2 | C(=O)=O | CO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 2.7 mmol, 320 mg, 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(t-butoxycarbamoyl)benzonitrile | 5.4 g, yield 93% | C(C)(C)(C)ONC(=O)C=1C=C(C#N)C=CC1 | C12H14N2O2
